US09428470B2
A) tert-Butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridin-1(2H)-yl)propanoate
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (100 mg), tert-butyl acrylate (0.089 mL), potassium carbonate (169 mg), and acetonitrile (2 mL) was stirred overnight at 70 C. In another reaction vessel, a mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (1.00 g), tert-butyl acrylate (0.895 mL), potassium carbonate (1.688 g), and acetonitrile (10 mL) was stirred overnight at 70 C. These two reaction mixtures were combined, and water was added thereto, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to obtain the title compound (1.11 g).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 100 mg | Cl.CC1(OB(OC1(C)C)C=1CCNCC1)C
reactant | tert-butyl acrylate | 0.089 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | potassium carbonate | 169 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 1.00 g | Cl.CC1(OB(OC1(C)C)C=1CCNCC1)C
reactant | tert-butyl acrylate | 0.895 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | potassium carbonate | 1.688 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | tert-Butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridin-1(2H)-yl)propanoate | 1.11 g | CC1(OB(OC1(C)C)C=1CCN(CC1)CCC(=O)OC(C)(C)C)C | C18H32BNO4
